US20010001799A1
A solution of isopropyl isocyanate (130 mg, 1.55 mmol) in THF (2 ml) was added to a solution of the ethyl (RS)-(4-amino-3-ethyl-phenyl)-(4-cyano-phenylamino)-acetate (500 mg, 1.55 mmol) described in Example 186.1 in THF (10 ml). The mixture was stirred overnight at room temperature. Thereafter, further isopropyl isocyanate (260 mg, 3.1 mmol) was added and the mixture was stirred overnight at 50° C. The reaction mixture was concentrated. The residue was suspended in CH2Cl2/MeOH (98:2) and the colorless solid was filtered off. The solid was washed with EtOH and dried under a high vacuum. Ethyl (RS)-(4-cyano-phenylamino)-[ 3-ethyl-4-(3-isopropyl-ureido)-phenyl]-acetate (395 mg, 62%) was obtained as a colorless solid; MS: 409 ([M+H]+)

reactant | isopropyl isocyanate | 1.55 mmol, 130 mg | C(C)(C)N=C=O | C4H7NO
reactant | ethyl (RS)-(4-amino-3-ethyl-phenyl)-(4-cyano-phenylamino)-acetate | 1.55 mmol, 500 mg | NC1=C(C=C(C=C1)C(C(=O)OCC)NC1=CC=C(C=C1)C#N)CC | C19H21N3O2
reactant | isopropyl isocyanate | 3.1 mmol, 260 mg | C(C)(C)N=C=O | C4H7NO
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl (RS)-(4-cyano-phenylamino)-[ 3-ethyl-4-(3-isopropyl-ureido)-phenyl]-acetate | 395 mg, 62% | C(#N)C1=CC=C(C=C1)NC(C(=O)OCC)C1=CC(=C(C=C1)NC(=O)NC(C)C)CC | C23H28N4O3
